US07598391B2
3-[5-(2-Azepan-1-yl-ethylsulfanyl)-thiazol-2-yl]-1,1-dicyclohexyl-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 2-(hexamethyleneimino)ethylchloride

reactant | 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCCCC1 | C17H24N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 2-(hexamethyleneimino)ethylchloride | N(CCCCCCCl)=CCCl | C8H15Cl2N
product | 3-[5-(2-Azepan-1-yl-ethylsulfanyl)-thiazol-2-yl]-1,1-dicyclohexyl-urea | N1(CCCCCC1)CCSC1=CN=C(S1)NC(N(C1CCCCC1)C1CCCCC1)=O | C24H40N4OS2
